US09210927B2
Preparation of (E)-2-Bromo-4-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-en-1-yl)-N-(2-oxo-2-((2,2,2-trifluoroethyl)amino)ethyl)benzamide (AC79)
To a stirred solution of (E)-2-bromo-4-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)benzoic acid (300 mg, 0.638 mmol) in CH2Cl2 (5.0 mL) was added 2-amino-N-(2,2,2-trifluoroethyl)acetamide (172. mg, 0.638 mmol) followed by benzotriazol-1-yl-oxytripyrrolidinophosphonium hexafluorophosphate (PyBOP) (364.5 mg, 0.701 mmol) and DIPEA (0.32 mL, 1.914 mmol), and the resultant reaction mixture was stirred at ambient temperature for 18 h. The reaction mixture was diluted with water and extracted with CH2Cl2. The combined CH2Cl2 layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure. Purification by flash column chromatography (SiO2, 100-200 mesh; eluting with 40% ethyl acetate/petroleum ether) afforded the title compound as an off-white solid (121 mg, 31%): 1H NMR (400 MHz, CDCl3) δ 8.69 (t, J=6.0 Hz, 1H), 8.58 (t, J=6.0 Hz, 1H), 7.92 (s, 1H), 7.87 (d, J=6.4 Hz, 2H), 7.62 (d, J=8.4 Hz, 1H), 7.45 (d, J=8.4 Hz, 1H), 7.0 (m, 1H), 6.76 (d, J=15.6 Hz, 1H), 4.83 (t, J=8.0 Hz, 1H), 3.98 (m, 4H); ESIMS m/z 610.97 ([M+H]+); IR (thin film) 3303, 1658, 1166, 817 cm−1.

reactant | (E)-2-bromo-4-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)benzoic acid | 0.638 mmol, 300 mg | BrC1=C(C(=O)O)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)F)Cl | C17H9BrCl2F4O2
reactant | 2-amino-N-(2,2,2-trifluoroethyl)acetamide | 0.638 mmol | NCC(=O)NCC(F)(F)F | C4H7F3N2O
reactant | benzotriazol-1-yl-oxytripyrrolidinophosphonium hexafluorophosphate | 0.701 mmol, 364.5 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | DIPEA | 1.914 mmol, 0.32 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (E)-2-Bromo-4-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-en-1-yl)-N-(2-oxo-2-((2,2,2-trifluoroethyl)amino)ethyl)benzamide | 121 mg, 31% | BrC1=C(C(=O)NCC(NCC(F)(F)F)=O)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)F)Cl | C21H14BrCl2F7N2O2
